US08557872B2
Step 4: Synthesis of 3-(2-propyl-4-trifluoromethyl-phenyl)-acrylic acid
To a suspension of 3-(2-propyl-4-trifluoromethyl-phenyl)-acrylic acid methyl ester (220 mg, 0.81 mmol) in THF (3 mL) was added a solution of 1N-LiOH (6 ml), and the mixture was stirred for 3 hours at room temperature. The reaction mixture was diluted with H2O, which was washed three times with EtOAc, acidified with 1N HCl to pH 1-2. The resulting solution was extracted three times with methylene chloride and then dried over anhydrous MgSO4 and concentrated in vacuo to give the title compound (155 mg, 74%).

reactant | 3-(2-propyl-4-trifluoromethyl-phenyl)-acrylic acid methyl ester | 0.81 mmol, 220 mg | COC(C=CC1=C(C=C(C=C1)C(F)(F)F)CCC)=O | C14H15F3O2
reactant | LiOH | 6 ml | [Li+].[OH-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3-(2-propyl-4-trifluoromethyl-phenyl)-acrylic acid | 155 mg, 74% | C(CC)C1=C(C=CC(=C1)C(F)(F)F)C=CC(=O)O | C13H13F3O2
